US07410966B2
2-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]acetamide
To a mixture of 4-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenol (58 mg, 0.2 mmol) and sodium hydride (55-65%, 18 mg, 0.4 mmol) in DMF (6 ml), 2-chloroacetamide (19 mg, 0.2 mmol) was added and the mixture was heated to 60° C. for 1 h. Column chromatography on silica using ethyl acetate/methanol as eluent afforded the title compound.

reactant | 4-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenol | 0.2 mmol, 58 mg | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)O | C12H8BrN3O
reactant | sodium hydride | 0.4 mmol, 18 mg | [H-].[Na+]
reactant | 2-chloroacetamide | 0.2 mmol, 19 mg | ClCC(=O)N | C2H4ClNO
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | 2-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]acetamide | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(OCC(=O)N)C=C2 | C14H11BrN4O2
